US07544697B2
Under a nitrogen atmosphere, a mixture sodium tert-butoxide (88.45 g, 0.920 mol) and ethanol (625 mL) was stirred for 5 minutes and then cooled to 0° C. A solution of diethyl oxalate (119 mL, 0.877 mol) and 6-chloro-2-pentanone (100 mL, 0.877 mol) in a minimal amount of ethanol was added and a precipitate formed immediately. The reaction was stirred for 5 minutes, then acetic acid (438 mL of 2 M) was added and a solution was obtained. Potassium acetate (129.0 g, 1.314 mol) was added and the reaction mixture was stirred for 3 minutes at which time it solidified. tert-Butylhydrazine oxalate hydrochloride (120.1 g, 0.964 mol) was added. The reaction was allowed to warm to ambient temperature with stirring overnight and then concentrated under reduced pressure. The residue was diluted with dichloromethane and water and the mixture was adjusted to pH 11 with the addition of 2 M aqueous sodium carbonate. The aqueous layer was extracted with dichloromethane; the combined organics were dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide ethyl 1-tert-butyl-5-(3-chloropropyl)-1H-pyrazole-3-carboxylate that was used without purification.

reactant | sodium tert-butoxide | 0.920 mol, 88.45 g | CC(C)([O-])C.[Na+]
reactant | diethyl oxalate | 0.877 mol, 119 mL | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Potassium acetate | 1.314 mol, 129.0 g | C(C)(=O)[O-].[K+]
reactant | tert-Butylhydrazine oxalate hydrochloride | 0.964 mol, 120.1 g | Cl.C(C(=O)O)(=O)O.C(C)(C)(C)NN
solvent | acetic acid | 2 M, 438 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 625 mL | C(C)O | C2H6O
product | ethyl 1-tert-butyl-5-(3-chloropropyl)-1H-pyrazole-3-carboxylate | C(C)(C)(C)N1N=C(C=C1CCCCl)C(=O)OCC | C13H21ClN2O2
